US06984653B2
(i) Production of 4-[[4-[4-[2-[2-(methylsulfanyl)ethyl]-1H-imidazol-1-yl]butyl]phenoxy]methyl]-2-[(E)-2-[4-(trifluoromethyl)phenyl]ethenyl]-1,3-oxazole
Using 2-[1-[4-[4-[[2-[(E)-2-[4-(trifluoromethyl)phenyl]ethenyl]-1,3-oxazol-4-yl]methoxy]phenyl]butyl]-1H-imidazol-2-yl]-1-ethanol (1.00 g), triethylamine (0.544 ml), methanesulfonyl chloride (0.182 ml) and sodium thiomethoxide (288 mg), the same reaction as Reference Example 6-(iii) was carried out to yield the titled compound (761 mg) as a colorless amorphous form.

reactant | 2-[1-[4-[4-[[2-[(E)-2-[4-(trifluoromethyl)phenyl]ethenyl]-1,3-oxazol-4-yl]methoxy]phenyl]butyl]-1H-imidazol-2-yl]-1-ethanol | 1.00 g | FC(C1=CC=C(C=C1)/C=C/C=1OC=C(N1)COC1=CC=C(C=C1)CCCCN1C(=NC=C1)CCO)(F)F | C28H28F3N3O3
reactant | methanesulfonyl chloride | 0.182 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium thiomethoxide | 288 mg | C[S-].[Na+]
solvent | triethylamine | 0.544 ml | C(C)N(CC)CC | C6H15N
product | 4-[[4-[4-[2-[2-(methylsulfanyl)ethyl]-1H-imidazol-1-yl]butyl]phenoxy]methyl]-2-[(E)-2-[4-(trifluoromethyl)phenyl]ethenyl]-1,3-oxazole | 761 mg | CSCCC=1N(C=CN1)CCCCC1=CC=C(OCC=2N=C(OC2)\C=C\C2=CC=C(C=C2)C(F)(F)F)C=C1 | C29H30F3N3O2S
